US06051712
A suspension of 20 mg (0.30 mmol) of activated zinc powder, 76 mg (1.17 mmol) of potassium cyanide, 52 mg (0.20 mmol) of triphenylphosphine and 74 mg (0.10 mmol) of bis(triphenylphosphine)-nickel(II) dibromide in 2 ml of acetonitrile was heated at 60° C. under argon for 5 minutes. 356 mg (1.00 mmol) of tert-butyl (3RS,4RS)-4-(4-bromophenyl)-3-hydroxy-piperidine-1-carboxylate in solid form were added thereto. The green suspension was stirred at 60° C. under argon for 20 hours. The resulting dark brown suspension was filtered over Speedex and the insoluble material was washed with methylene chloride. The filtrate was partitioned between methylene chloride and 5% sodium hydrogen carbonate solution, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. The crude product (416 mg) was purified by chromatography on silica gel with a 1:1 mixture of ethyl acetate and hexane as the eluent. There were obtained 168 mg (56% of theory) of tert-butyl (3RS,4RS)-4-(4-cyano-phenyl)-3-hydroxy-piperidine-1-carboxylate as a colourless solid; MS: 302 (M)+.

reactant | potassium cyanide | 1.17 mmol, 76 mg | [C-]#N.[K+]
reactant | triphenylphosphine | 0.20 mmol, 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl (3RS,4RS)-4-(4-bromophenyl)-3-hydroxy-piperidine-1-carboxylate | 1.00 mmol, 356 mg | BrC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22BrNO3
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | zinc | 0.30 mmol, 20 mg | [Zn] | Zn
catalyst | bis(triphenylphosphine)-nickel(II) dibromide | 0.10 mmol, 74 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Ni](Br)Br
product | tert-butyl (3RS,4RS)-4-(4-cyano-phenyl)-3-hydroxy-piperidine-1-carboxylate | 168 mg, 56% | C(#N)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C17H22N2O3
